US05817671
5-(N-[2-pyridinecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.30 gm (1.30 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.34 gm (1.56 mMol) 2-pyridinecarbonyl chloride, 0.098 gm (26%) of the title compound were prepared as a crystalline solid essentially by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.30 mMol, 0.30 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2-pyridinecarbonyl chloride | 1.56 mMol, 0.34 gm | N1=C(C=CC=C1)C(=O)Cl | C6H4ClNO
product | 5-(N-[2-pyridinecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.098 gm, 26% | N1=C(C=CC=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C19H21N5O
